US05786501
Preparation of methyl 2-hexylacetoacetate
The reaction mixture from the condensation of methyl acetoacetate (193.5 g) and hexanal (151.8 g) with piperidine catalysis was hydrogenated in an autoclave at 50° C. with hydrogen and Pd/C catalysis. After the end of the hydrogenation and filtering off the Pd/C catalyst, the two-phase mixture was concentrated at a pressure of 15 mbar and a temperature of 70° C. The residue (262 g) still contained 1.2 percent of methyl 2-hexenylacetoacetate. Methyl acetoacetate (3.14 g) and sodium methoxide (1.46 g of a 5.4 molar solution) were then added and this mixture was heated at 90° C. for 5 hours. At the end of this treatment, 0.39 percent of methyl 2-hexenylacetoacetate was still measured. The crude product was then distilled in a high vacuum (3 to 4 mbar) in a thin-layer evaporator. The methyl 2-hexylacetoacetate distillate (240.9 g), with a content of 97.8 percent, still contained 0.26 percent of methyl 2-hexenylacetoacetate.

reactant | methyl acetoacetate | 193.5 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | hexanal | 151.8 g | C(CCCCC)=O | C6H12O
reactant | piperidine | N1CCCCC1 | C5H11N
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | [Pd] | Pd
product | methyl 2-hexylacetoacetate | C(CCCCC)C(C(=O)OC)C(=O)C | C11H20O3
